US04117143
5-(Acetoxy)-3-methyl-1-(β-phenoxyethyl)-pyrazole
0.1 mol (21.8 g) of 3-methyl-1-(β-phenoxyethyl)-5-pyrazolone was heated with 0.2 mol (20.4 g) of acetic anhydride in the presence of 0.11 mol (8.2 g) of sodium acetate for 2 hours.

reactant | 3-methyl-1-(β-phenoxyethyl)-5-pyrazolone | 0.1 mol, 21.8 g | CC=1NN(C(C1)=O)CCOC1=CC=CC=C1 | C12H14N2O2
reactant | acetic anhydride | 0.2 mol, 20.4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 0.11 mol, 8.2 g | C(C)(=O)[O-].[Na+]
product | 5-(Acetoxy)-3-methyl-1-(β-phenoxyethyl)-pyrazole | C(C)(=O)OC1=CC(=NN1CCOC1=CC=CC=C1)C | C14H16N2O3
